US07528147B2
9.82 ml of a 2.5N solution of n-butyllithium in hexane are added, dropwise, while maintaining the temperature at around −100° C., to a solution of 2.2 g of tert-butyl ester of 3-iodo-5,7-dimethoxyindole-1-carboxylic acid and 1.8 ml of tributyl borate in 33 ml of tetrahydrofuran cooled to −100° C. The cooling bath is removed and, when the temperature of the reaction medium reaches approximately −5° C., 2 g of ice are added. After agitation for one hour at a temperature in the region of 20° C., the mixture is concentrated to dryness under reduced pressure (13 kPa). The residue is extracted with 200 ml of ethyl acetate, and washed with 100 ml of a saturated aqueous sodium chloride solution The organic phase is dried over magnesium sulfate, filtered and concentrated to dryness under reduced pressure (13 kPa). 2.34 g of 1-tert-butyloxycarbonyl-5,7-dimethoxy-1H-indole-3-boronic acid are thus obtained in the form of a solid, which is used as it is for the following step.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-iodo-5,7-dimethoxyindole-1-carboxylic acid | IC1=CN(C2=C(C=C(C=C12)OC)OC)C(=O)O | C11H10INO4
reactant | tributyl borate | 1.8 ml | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
product | 1-tert-butyloxycarbonyl-5,7-dimethoxy-1H-indole-3-boronic acid | 2.34 g | C(C)(C)(C)OC(=O)N1C=C(C2=CC(=CC(=C12)OC)OC)B(O)O | C15H20BNO6
